US06344449B1
3-(4-Piperidinyl)-2(1H)-quinolone
A mixture of 8.6 g (0.0387 mol) of 3-(4-pyridinyl)-2(1H)-quinolone, 1.2 1 of ethanol, 39 ml (0.039 mol) of 1N hydrochloric acid and 8.0 g of 10% palladium/charcoal was hydrogenated at a temperature of 40° C. until about 0.08 mol of hydrogen had been taken up. The mixture was freed from catalyst, the filtrate was evaporated down in vacuo, the residue was taken up in 200 ml of water and made ammoniacal. Common salt was added up to saturation point and the mixture was continuously extracted with dichloromethane using a perforator. The dichloromethane phase was evaporated down, the residue remaining was separated from by-products by chromatography over silica gel using FM1 as eluant. The appropriate fractions were combined, freed from solvent, dissolved in a little isopropanol and converted with ethanolic hydrogen chloride solution into the hydrochloride. Colourless crystals. Yield: 2.68 g (26.2% of theory).

reactant | 3-(4-pyridinyl)-2(1H)-quinolone | 0.0387 mol, 8.6 g | N1=CC=C(C=C1)C=1C(NC2=CC=CC=C2C1)=O | C14H10N2O
reactant | hydrochloric acid | 0.039 mol, 1N, 39 ml | Cl | ClH
reactant | hydrogen | about 0.08 mol | [H][H] | H2
catalyst | palladium/charcoal | 8.0 g | [Pd] | Pd
solvent | ethanol | C(C)O | C2H6O
product | 3-(4-Piperidinyl)-2(1H)-quinolone | N1CCC(CC1)C=1C(NC2=CC=CC=C2C1)=O | C14H16N2O
